Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Opioid overdose
 
Major Surgical or Invasive Procedure:
Intubation

 
History of Present Illness:
Patient is a ___ male with a history of seizure 
disorder, opiate abuse, depression, anxiety, bipolar disorder, 
posttraumatic stress disorder transferred in from outside 
emergency department for known drug overdose from opiates, 
complicated by seizure experience status post Narcan.

Patient's mother reportedly also overdosed earlier in the day, 
with EMS called back to the house for the patient.  Patient was 
given 2 mg intranasal Narcan and was noted to have a seizure, 
received 6 mg IV Versed given tonic clonic movements he 
demonstrated.  Arrive to hospital with nasal cannula and bag 
valve mask. Was intubated at ___.  OGT placed along 
with Foley. Patient received a CT head and chest x-ray at the 
outside hospital prior to transfer for ongoing care, which were 
reportedly negative for any acute intracranial or 
cardiopulmonary process. ETT was withdrawn 2 cm based on CXR. 
Transferred for ___ given that there were no 
available inpatient beds at ___.  Patient has reported 
history of seizure disorder but was not noted to have any 
anti-epileptics on his medication list.  Neurology was consulted 
in the emergency room. Sedation was paused for a neurologic 
exam, which showed no localizing deficits.  Patient arrived to 
the emergency room already intubated for airway protection.

In the ED, initial vitals: Temperature 36.6 Heart rate 75 blood 
pressure 132/65 respiratory rate 18 oxygen saturation 100% 
endotracheal tube.
 - Exam notable for  patient continuing to be intubated and 
sedated, no obvious signs of trauma. Sedation was paused for 
neuro exam by neurology, which demonstrated no post-ictal signs 
or localizing deficits.
 - Labs were notable for:  CBC demonstrated White blood cell 
count 10.1 H&H 11.8/36.7 platelets 136, sodium 142, bicarb 31, 
BUN 23, creatinine 1.2, phosphate 5.4, LFTs wnl, lactate 1.6 
Blood gas of 7. ___. Serum tox was negative. urinalysis 
was bland, urine was positive for benzodiazepines and opiates. 
blood and urine cultures were obtained.
 - Imaging:    Patient received a chest x-ray which demonstrated 
an endotracheal tube terminating 2.4 cm above the level of the 
carina, with recommendation to pull back by 1.5 cm.
 - Patient was given:  continuing dosing on propofol drip.
 - Consults: Neurology
  
On arrival to the MICU, patient is sedated but pulling at lines.
 
Review of systems:   unable to obtain review of systems as 
patient is sedated and intubated.
 
Past Medical History:
Reported seizure disorder, unclear seizures when setting of 
substance abuse
Depression
Anxiety
Bipolar disorder
Post traumatic stress disorder
ADHD
Opiate addiction
Tenosynovitis of finger and hand
Bilateral knee surgeries (meniscus)
Shoulder surgery
 
Social History:
___
Family History:
Unknown family history
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
GENERAL: intubated/sedated.
HEENT: AT/NC, pupils equally round at 3 mm, reactive, anicteric 
sclera, pink conjunctiva, MMM. 
NECK: nontender supple neck, no LAD, no JVD.
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: intubated, CTAB, no wheezes, rales, rhonchi.
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema.
PULSES: 2+ DP pulses bilaterally  
NEURO: sedated. deferred repeat exam given neuro assessment in 
ED.
 
Pertinent Results:
___ 01:26AM   TYPE-ART TEMP-37 RATES-18/ TIDAL VOL-500 
PEEP-5 O2-40 PO2-181* PCO2-50* PH-7.40 TOTAL CO2-32* BASE XS-5 
INTUBATED-INTUBATED
___ 01:21AM   LACTATE-1.6
___ 01:05AM   GLUCOSE-93 UREA N-23* CREAT-1.2 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-31 ANION GAP-12

___ 01:05AM   ALT(SGPT)-17 AST(SGOT)-22 ALK PHOS-62 TOT 
BILI-0.4
___ 01:05AM   LIPASE-37
___ 01:05AM   ALBUMIN-4.3 CALCIUM-8.4 PHOSPHATE-5.4* 
MAGNESIUM-2.1
___ 01:05AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:05AM URINE  bnzodzpn-POS* barbitrt-NEG opiates-POS* 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:05AM   WBC-10.1* RBC-3.85* HGB-11.8* HCT-36.7* 
MCV-95 MCH-30.6 MCHC-32.2 RDW-13.1 RDWSD-45.6
___ 01:05AM   NEUTS-74.8* LYMPHS-16.9* MONOS-5.2 EOS-2.5 
BASOS-0.3 IM ___ AbsNeut-7.52* AbsLymp-1.70 AbsMono-0.52 
AbsEos-0.25 AbsBaso-0.03
___ 01:05AM   PLT COUNT-136*
___ 01:05AM   ___ PTT-27.6 ___
___ 01:05AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:05AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG

___ CXR
1. Appropriate positioning of support lines and devices. 
2. Cardiomegaly. 

 
Brief Hospital Course:
___ male with unclear prior seizure disorder not on home 
antiepileptics,  presenting with opiate overdose, reportedly 
with tonic-clonic activity after Narcan administration.

# Altered Mental Status secondary to opioid overdose complicated 
by acute respiratory failure: The patient was admitted with 
acute respiratory failure and was intubated at the time of 
arrival. No post-ictal signs were noted on neurological exam 
with sedation off in the ED. The patient arrived in the MICU and 
was pulling at lines despite sedation with propofol. The patient 
was extubated in the morning of admission. He tolerated 
extubation with no shortness of breath or respiratory distress. 
He reported an unintentional overdose. He denies thoughts of SI 
or HI. He asked to leave AMA. He was advised to the risks of 
leaving against medical advice and the importance of staying for 
monitoring and social work consult. The patient understood these 
risks and left against medical advice (AMA).

#  History of seizure disorder:  The patient reportedly 
experienced tonic-clonic activity after administration of 
intranasal Narcan in the field.  Patient was not on maintenance 
antiepileptic drugs at home, unclear if prior seizure disorder 
was experienced in setting of similar drug overdose. Neurology 
has evaluated the patient, considered most likely seizure 
activity was in the setting of prior overdose versus less likely 
possibility patient has primary seizure disorder. Patient 
refused further Neurological evaluation, and left against 
medical advice (AMA).  Sister did not believe patient had 
seizure disorder per OSH report.

# Transitional Issues:
- Narcan, home prescription
- Follow up with psychiatry and neurology as outpatient
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. ClonazePAM 2 mg PO BID:PRN anxiety 
2. Gabapentin 800 mg PO TID 
3. Ibuprofen 600 mg PO Q6H pain 

 
Discharge Medications:
1.  Narcan (nalOXone) 4 mg/actuation nasal ONCE opiate overdose 
RX *naloxone [Narcan] 4 mg/actuation 1 spray intranasal PRN Disp 
#*2 Spray Refills:*6 
2.  ClonazePAM 2 mg PO BID:PRN anxiety  
3.  Gabapentin 800 mg PO TID  
4.  Ibuprofen 600 mg PO Q6H pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Opiate Overdose

Secondary Diagnosis:
- Toxic Metabolic Encephalopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you in the intensive care unit. You 
were admitted after an overdose. You were intubated at an 
outside hospital and transferred to ___. There was some 
concern that you had a seizure. You were quickly extubated in 
the ICU and were stable. We feel that you would benefit from 
further observation in the hospital, however requested to leave 
against medical advice. 

Sincerely,

Your ___ Team
 
Followup Instructions:
___